US05053514
A solution of 6-(3-chloro-2-hydroxypropoxy)carbostyril (5.05 g) and N-methylbenzylamine (6.0 g) in dimethylformamide (50 ml) is heated with stirring at 50°-60° C. for 5 hours. The solvent is distilled off under reduced pressure and the resulting residue is purified by silica gel column chromatography (solvent; methanol:chloroform =1:100-1:25) and recrystallized from ethanol to give 6-[3-(N-methyl-N-benzylamino)-2-hydroxypropoxy]carbostyril (2.5 g), as white powder, m.p. 129°-132° C.

reactant | 6-(3-chloro-2-hydroxypropoxy)carbostyril | 5.05 g | ClCC(COC=1C=C2C=CC(NC2=CC1)=O)O | C12H12ClNO3
reactant | N-methylbenzylamine | 6.0 g | CNCC1=CC=CC=C1 | C8H11N
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 6-[3-(N-methyl-N-benzylamino)-2-hydroxypropoxy]carbostyril | 2.5 g | CN(CC1=CC=CC=C1)CC(COC=1C=C2C=CC(NC2=CC1)=O)O | C20H22N2O3
